US07964645B2
b) 2-Amino-N-[(4-chloro-phenyl)-phenyl-methyl]-acetamide hydrochloride
6.6 mmol ({[(4-Chloro-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-carbamic acid tert-butyl ester were treated with 30 ml of a saturated solution of hydrogen chloride in diethyl ether. The mixture was stirred at room temperature for 1 hour. Removal of the diethyl ether in the rotatory evaporator yields the title compound as a colorless solid. Yield=100%.

reactant | ({[(4-Chloro-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-carbamic acid tert-butyl ester | 6.6 mmol | C(C)(C)(C)OC(NCC(NC(C1=CC=CC=C1)C1=CC=C(C=C1)Cl)=O)=O | C20H23ClN2O3
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Amino-N-[(4-chloro-phenyl)-phenyl-methyl]-acetamide hydrochloride | Yield=100% | Cl.NCC(=O)NC(C1=CC=CC=C1)C1=CC=C(C=C1)Cl | InChI=1S/C15H15ClN2O.ClH/c16-13-8-6-12(7-9-13)15(18-14(19)10-17)11-4-2-1-3-5-11;/h1-9,15H,10,17H2,(H,18,19);1H
